US07342039B2
This compound was produced using similar methods as those used in Step 2, example 4, starting with 4-[3-(1,3-dioxo-1,3-dihydro-isoindol-2-yloxy)-propoxy]-2-hydroxy-benzoic acid methyl ester (0.42 g, 1.12 mmol) and methyl hydrazine (0.087 g, 1.88 mmol). The crude material was purified by flash chromatography through silica gel using ethyl acetate/chloroform (10/90) to give 4-(3-aminooxy-propoxy)-2-hydroxy-benzoic acid methyl ester (0.26 g, 96%) as a white solid. 1H NMR (400 MHz, CDCl3); δ 7.51 (d, 1H), 6.23 (s, 1H), 6.21 (d, 1H), 3.85 (t, 2H), 3.69 (s, 3H), 3.62 (t, 2H), 1.86 (m, 2H).

reactant | 4-[3-(1,3-dioxo-1,3-dihydro-isoindol-2-yloxy)-propoxy]-2-hydroxy-benzoic acid methyl ester | 1.12 mmol, 0.42 g | COC(C1=C(C=C(C=C1)OCCCON1C(C2=CC=CC=C2C1=O)=O)O)=O | C19H17NO7
reactant | methyl hydrazine | 1.88 mmol, 0.087 g | CNN | CH6N2
product | 4-(3-aminooxy-propoxy)-2-hydroxy-benzoic acid methyl ester | 0.26 g, 96% | COC(C1=C(C=C(C=C1)OCCCON)O)=O | C11H15NO5
